US07160888B2
Synthesis of 7-{4-[4-(2-Ethyl-3-fluoro-phenyl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
In a manner similar to that of other examples above, 1-(2-ethyl-3-fluoro-phenyl)-piperazine hydrochloride was coupled by reductive amination to 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde followed by typical workup and purification to give the title compound. MS: APCI: M+1: 427.2 (Exact Mass: 426.24).

reactant | 1-(2-ethyl-3-fluoro-phenyl)-piperazine hydrochloride | Cl.C(C)C1=C(C=CC=C1F)N1CCNCC1
reactant | 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | O=C1CCC=2C=CC(=NC2N1)OCCCC=O | C12H14N2O3
product | 7-{4-[4-(2-Ethyl-3-fluoro-phenyl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | C(C)C1=C(C=CC=C1F)N1CCN(CC1)CCCCOC1=CC=C2CCC(NC2=N1)=O | C24H31FN4O2
